US04665227
N-[3-[(1-Methylethyl)amino]propyl]-3-nitrobenzene sulfonamide
Following the procedure of Example 1, m-nitrobenzenesulfonyl chloride was reacted with N-isopropyl propane-1,3-diamine to provide the free base, m.r. 57°-59° C., converted to the hydrochloride salt, m.r. 184°-188° C.

reactant | m-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-isopropyl propane-1,3-diamine | C(C)(C)NCCCN | C6H16N2
product | N-[3-[(1-Methylethyl)amino]propyl]-3-nitrobenzene sulfonamide | CC(C)NCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H19N3O4S
